US08008307B2
Step c: (1R,2R,4R)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)cyclopentyl acetate
To a solution of (1R,2R,4R)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)cyclopentanol (0.193 g, 0.424 mmol), N,N-dimethylaminopyridine (4.7 mg, 0.039 mmol) and pyridine (0.281 mL, 3.48 mmol) in DCM (2.1 mL) was added acetic anhydride (0.044 mL, 0.46 mmol) and the mixture stirred overnight. The reaction was diluted with CH2CL2 (10 mL) and H2O (20 mL) then stirred for 10 m. The organic layer was separated and the aqueous layer was extracted with CH2CL2 and combined organics were washed with H2O. The organic layer was dried (MgSO4), filtered and concentrated in vacuo to obtain the title compound. LC/MS: Rt=1.74 min, ES+ 498 (FA Standard).

reactant | (1R,2R,4R)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)cyclopentanol | 0.424 mmol, 0.193 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@H]([C@@H](C1)O)NC1=NC=NC(=C1)N[C@H]1CCC2=CC=CC=C12 | C25H38N4O2Si
reactant | pyridine | 3.48 mmol, 0.281 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.46 mmol, 0.044 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 2.1 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 20 mL | O | H2O
product | (1R,2R,4R)-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-({6-[(1S)-2,3-dihydro-1H-inden-1-ylamino]pyrimidin-4-yl}amino)cyclopentyl acetate | C(C)(=O)O[C@H]1[C@@H](C[C@H](C1)CO[Si](C)(C)C(C)(C)C)NC1=NC=NC(=C1)N[C@H]1CCC2=CC=CC=C12 | C27H40N4O3Si
